US04223137
5 g of 5-(1-hydroxy-2-ethylaminobutyl)-8-hydroxycarbostyril was suspended in 20 ml of methanol, and sodium methylate prepared from 458 mg of sodium metal and 9.6 ml of absolute methanol was added to the suspension. The mixture was then concentrated to dryness, and the resulting residue was dissolved in 30 ml of dimethylformamide. 3.3 g of β-cyclohexylpropionyl chloride was then added dropwise to the mixture while cooling with ice-water. The mixture was then stirred for 1 hour at room temperature, and diethyl ether was added to the mixture. The precipitate formed was separated by filtration, washed with diethyl ether and recrystallized from a mixture of methanol and diethyl ether to obtain 3.86 g of 8-(β-cyclohexylpropionyloxy)-5-(1-hydroxy-2-ethylaminobutyl)carbostyril having a melting point of 233°-234° C. (with decomposition).

reactant | 5-(1-hydroxy-2-ethylaminobutyl)-8-hydroxycarbostyril | 5 g | OC(C(CC)NCC)C1=C2C=CC(NC2=C(C=C1)O)=O | C15H20N2O3
reactant | sodium methylate | C[O-].[Na+]
reactant | sodium | 458 mg | [Na] | Na
solvent | methanol | 20 ml | CO | CH4O
solvent | methanol | 9.6 ml | CO | CH4O
product | 8-(β-cyclohexylpropionyloxy)-5-(1-hydroxy-2-ethylaminobutyl)carbostyril | 3.86 g | C1(CCCCC1)CCC(=O)OC=1C=CC(=C2C=CC(NC12)=O)C(C(CC)NCC)O | C24H34N2O4
